US05245046
Preparation of Ethyl α-[3-(trifluoromethyl)benzylamino]-1-ethylindole-3-acetate, hydrochloride
Ethyl α-[3-(trifluoromethyl)benzylamino]-1-ethylindole-3-acetate (1.50 g, 3.70 mmol) was placed in 25 mL of ether, saturated with HCl gas and stirred under nitrogen for 30 minutes. The contents were concentrated to dryness in vacuo and the resulting solid recrystallized from acetone-ether (1:5) to give 1.30 g of the title compound as a crystalline white solid m.p. 141°-143° C.

reactant | Ethyl α-[3-(trifluoromethyl)benzylamino]-1-ethylindole-3-acetate | 3.70 mmol, 1.50 g | FC(C=1C=C(CNC(C(=O)OCC)C2=CN(C3=CC=CC=C23)CC)C=CC1)(F)F | C22H23F3N2O2
reactant | HCl | Cl | ClH
solvent | ether | 25 mL | CCOCC | C4H10O
product | Ethyl α-[3-(trifluoromethyl)benzylamino]-1-ethylindole-3-acetate, hydrochloride | 1.30 g | Cl.FC(C=1C=C(CNC(C(=O)OCC)C2=CN(C3=CC=CC=C23)CC)C=CC1)(F)F | InChI=1S/C22H23F3N2O2.ClH/c1-3-27-14-18(17-10-5-6-11-19(17)27)20(21(28)29-4-2)26-13-15-8-7-9-16(12-15)22(23,24)25;/h5-12,14,20,26H,3-4,13H2,1-2H3;1H
